US07759376B2
Step 3: Preparation of 2-chloro[1,3]thiazolo[4,5-b]pyridine
The intermediate [1,3]thiazolo[4,5-b]pyridine-2(3H)-thione (644.0 mg, 3.83 mmol, dry powder) was treated with neat sulfuryl chloride (3.08 ml, 38.28 mmol) and allowed to stir at it overnight. The reaction mixture was quenched with water and extracted with ethyl acetate. The organic layer was washed with 1N NaOH, followed by brine, and dried over Na2SO4. Concentration in vacuo gave the title compound (260.0 mg, 40%). LC/MS m/z 171.2 (MH+); retention time 1.55 min. 1H NMR (400 MHz, DMSO-d6) δ 7.58 (m, 1H), 8.62 (d, 1H), 8.78 (d, 1H).

reactant | [1,3]thiazolo[4,5-b]pyridine-2(3H)-thione | 3.83 mmol, 644.0 mg | S1C(NC2=NC=CC=C21)=S | C6H4N2S2
reactant | sulfuryl chloride | 38.28 mmol, 3.08 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2-chloro[1,3]thiazolo[4,5-b]pyridine | 260.0 mg, 40% | ClC=1SC=2C(=NC=CC2)N1 | C6H3ClN2S
